US09447035B2
Step 2: Preparation of (S)-2-(2,6-dichloro-4-hydroxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester:
The title compound was prepared using a similar procedure as described in Example 5, Step 4, starting from (S)-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester (1.66 g, 2.35 mmol) and TBAF (3.5 mL, 3.5 mmol, 1M), and after ISCO column chromatography purification, resulted in a white solid (884 mg, 69%). ES(+)-LRMS m/e calcd. for C26H27Cl2N3O6 (M+H)+ 548, obsd. 548.

reactant | (S)-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | 2.35 mmol, 1.66 g | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1Cl)O[Si](C(C)C)(C(C)C)C(C)C)Cl)=O)=O | C35H47Cl2N3O6Si
reactant | TBAF | 3.5 mmol, 1M, 3.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
product | (S)-2-(2,6-dichloro-4-hydroxy-benzoylamino)-3-[4-(1,3,6-trimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidin-5-yl)phenyl]propionic acid propyl ester | C(CC)OC([C@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)NC(C1=C(C=C(C=C1Cl)O)Cl)=O)=O | C26H27Cl2N3O6
